US04144344
A mixture of 20 g of the hydrate of 4-piperidone-hydrochloride, 46.8 g of 1-(2-methoxyphenyloxy)-2,3-epoxy-propane, 18 g of potassium carbonate and 250 ml of isopropanol is stirred for 6 hours at a reaction temperature of 60° C. After cooling, the suspension is filtered and the filtrate is evaporated to dryness under reduced pressure. The residue is dissolved in 100 ml of 6N hydrochloric acid and washed with four 75 ml portions of ethyl acetate. The aqueous acid solution is adjusted with a 2N sodium carbonate solution to a pH of 10 and extracted with three 75 ml portions of ethyl acetate. The organic extracts are dried over sodium sulphate and concentrated under reduced pressure. The red residue is dissolved in methanol and the solution is boiled for 30 minutes with the addition of activated charcoal. The solution is filtered and the filtrate is concentrated under reduced pressure. The residue is treated with toluene and recrystallised from a mixture of ethyl acetate and petroleum ether to give 1-[2-hydroxy-(2-methoxyphenyloxy)-propyl]-piperidin-4-one with a melting point of 77°-78° C.

reactant | 4-piperidone-hydrochloride | Cl.N1CCC(CC1)=O
reactant | 1-(2-methoxyphenyloxy)-2,3-epoxy-propane | 46.8 g | COC1=C(C=CC=C1)OCC1CO1 | C10H12O3
reactant | potassium carbonate | 18 g | C([O-])([O-])=O.[K+].[K+]
solvent | isopropanol | 250 ml | C(C)(C)O | C3H8O
product | 1-[2-hydroxy-(2-methoxyphenyloxy)-propyl]-piperidin-4-one | OC(CN1CCC(CC1)=O)COC1=C(C=CC=C1)OC | C15H21NO4
